US08012974B2
Racemic cis 1-(4-amino-5-methyl-azepan-1-yl)-ethanone was prepared in the same manner from racemic cis 1-(4-benzylamino-5-methyl-azepan-1-yl)-ethanone. In this instance, 1 atm H2 was used instead of 55 psi, Pd/C was used instead of Pd(OH)2/C, EtOAc was used instead of EtOH, and the HCl treatment was omitted.

reactant | racemic cis 1-(4-benzylamino-5-methyl-azepan-1-yl)-ethanone | C(C1=CC=CC=C1)N[C@@H]1CCN(CC[C@@H]1C)C(C)=O | C16H24N2O
reactant | HCl | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Racemic cis 1-(4-amino-5-methyl-azepan-1-yl)-ethanone | N[C@@H]1CCN(CC[C@@H]1C)C(C)=O | C9H18N2O
